US07615642B2
Step B: ethyl 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}piperidine-3-carboxylate
2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (400 mg, 0.98 mmol) was added to a solution of ethyl piperidine-3-carboxylate (771 mg, 4.90 mmol) and DMAP (600 mg, 4.90 mmol) in MeCN (50 mL). The reaction mixture was stirred overnight at ambient temperature and the solvent was concentrated. The product was purified by MPLC using 50-90% EtOAc/Heptane on silica gel to provide the title compound as colorless oil. Yield: 182 mg (38%); 1H NMR (400 MHz, CDCl3) δ 1.26 (t, J=7.13 Hz, 3 H), 1.29-1.38 (m, 1 H), 1.49-1.57 (m, 4 H), 1.59 (s, 9 H), 1.63-1.83 (m, 2 H), 1.91-2.02 (m, 1 H), 2.30 (td, J=11.43, 2.93 Hz, 2 H), 2.44 (t, J=11.13 Hz, 1 H), 2.57-2.69 (m, 1 H), 3.28-3.40 (m, 2 H), 3.65-3.75 (m, 1 H), 3.91 (dd, J=11.82, 3.81 Hz, 1 H), 3.96-4.05 (m, 2 H), 4.13 (q, J=7.03 Hz, 2 H), 4.25 (d, J=7.23 Hz, 2 H), 7.43 (d, J=8.20 Hz, 1 H), 7.64 (dd, J=8.59, 1.76 Hz, 1 H), 8.19 (d, J=1.56 Hz, 1 H); MS (ESI) (M+H)+ 491.9.

reactant | 2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 0.98 mmol, 400 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | ethyl piperidine-3-carboxylate | 4.90 mmol, 771 mg | N1CC(CCC1)C(=O)OCC | C8H15NO2
catalyst | DMAP | 4.90 mmol, 600 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 50 mL | CC#N | C2H3N
product | ethyl 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}piperidine-3-carboxylate | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2CC(CCC2)C(=O)OCC | C25H37N3O5S
